plaintext
* SPICE Netlist for the given schematic
? Missing component
I1 Vout VCC DC I1
* PMOS Transistor Q1
M1 Vout Vb1 VCC VCC PMOS_MODEL
* NMOS Transistor Q2
M2 2 Vin 0 0 NMOS_MODEL
* NMOS Transistor Q3
M3 VCC Vb3 2 0 NMOS_MODEL
* Models for transistors
.model PMOS_MODEL PMOS
.model NMOS_MODEL NMOS
.end
